US05108486
Following procedures similar to those employed in Step B of Example 3, the reaction of 12.5 g (0.0530 mole) of 4-(4-ethoxyphenyl)-2-methyl-3-thiosemicarbazide with 11.2 g (0.0530 mole) of trifluoroacetic anhydride in 100 ml of toluene yielded 14.6 g of 4-(4-ethoxyphenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione as a solid, mp 93°-95° C., Compound 60 of Table 1. The nmr spectrum was consistent with the proposed structure.

reactant | 4-(4-ethoxyphenyl)-2-methyl-3-thiosemicarbazide | 0.0530 mole, 12.5 g | C(C)OC1=CC=C(C=C1)NC(N(N)C)=S | C10H15N3OS
reactant | trifluoroacetic anhydride | 0.0530 mole, 11.2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-ethoxyphenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 14.6 g | C(C)OC1=CC=C(C=C1)N1C(=NN(C1=S)C)C(F)(F)F | C12H12F3N3OS
